US07935699B2
2-(3-Chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-3-yl)-propionic acid methyl ester (0.85 g, 2.45 mmol) was dissolved in methanol (10 ml) and treated with a solution of lithium hydroxide monohydrate (0.51 g, 12.15 mmol) in water (1 ml) at 25° C. It was stirred at 25° C. for 2 h or until the starting material was all consumed by TLC. The reaction was then concentrated in vacuo to remove the methanol. The remaining aqueous layer was then diluted with water and acidified to pH=2 with an aqueous 1N hydrochloric acid solution. This was then extracted with methylene chloride (2×50 mL). The organic layers were combined and dried over magnesium sulfate, filtered and concentrated in vacuo to afford 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-3-yl)-propionic acid (0.68 g, 84%) as a white solid: 1H NMR (300 MHz, DMSO-d6) δ ppm 1.41-1.56 (m, 1H, CH of CH2), 1.74-2.12 (m, 4H, CH and 3×CH of 2×CH2), 3.16-3.30 (m, 1H, OCH of OCH2), 3.37 (s, 3H, SO2CH3), 3.51-3.79 (m, 4H, ArCH and 3×OCH of 2×OCH2), 7.57 (2×dd, Jo=8.3 Hz, Jm=1.7 Hz, 1H, Ar), 7.71 (2×d, Jm=1.7 Hz, 1H, Ar), 8.00 (2×d, Jo=8.3 Hz, 1H, Ar), 12.76 (brs, 1H, CO2H).

reactant | 2-(3-Chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-3-yl)-propionic acid methyl ester | 2.45 mmol, 0.85 g | COC(C(CC1COCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C15H19ClO5S
reactant | lithium hydroxide monohydrate | 12.15 mmol, 0.51 g | O.[OH-].[Li+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-3-yl)-propionic acid | 0.68 g, 84% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1COCC1 | C14H17ClO5S
